US05037985
10-Chloro-6,12-dimethyl-1,2,3,4,5,6-hexahydro-3-(2-propenyl)-2,6-methano-9H-pyrrolo-[3,2-h][3]benzazocine
To a stirred solution of 1.30 g of 10-chloro-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]-benzazocine, and 24 ml of dimethylformamide was added 1.69 ml of diisopropylethyl amine. Upon cooling to 0° C., the mixture was cooled to 0° C. and 0.45 ml of allyl bromide in 5.0 ml of dimethylformamide was added, under nitrogen. The mixture was stirred an additional 3 hr at 0° C. and was poured into water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate and ether. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate, filtered, and concentrated. The residue crystallized on standing. Recrystallization from ether with ether-pentane and pentane washing gave 0.75 g (47%) of product, mp 189°-191° C.

reactant | 10-chloro-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]-benzazocine | 1.30 g | ClC=1CN=CC2(C3=C(C1)C1=C(CC3)NC(C1)C2C)C | C16H19ClN2
reactant | diisopropylethyl amine | 1.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | allyl bromide | 0.45 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10-Chloro-6,12-dimethyl-1,2,3,4,5,6-hexahydro-3-(2-propenyl)-2,6-methano-9H-pyrrolo-[3,2-h][3]benzazocine | 0.75 g, 47% | ClC=1CN=CC2(C3=C(C1)C1=C(CC3)N(C(C1)C2C)CC=C)C | C19H23ClN2
